US08242175B2
Acetyl chloride (0.216 ml, 3.04 mmol) was added to a stirred solution of (3S,5R)-3,5-dimethyl-piperazine-1-carboxylic acid tert-butyl ester (500 mg, 2.34 mmol) and TEA (0.49 ml, 3.51 mmol) in DCM (20 ml). The mixture was stirred at room temperature overnight, then the solvent was evaporated and the residue was partitioned between Et2O and 5% citric acid. The organic phase was dried over Na2SO4 and evaporated in vacuo to give 545 mg of (3S,5R)-4-acetyl-3,5-dimethyl-piperazine-1-carboxylic acid tert-butyl ester as a colourless oil.

reactant | Acetyl chloride | 3.04 mmol, 0.216 ml | C(C)(=O)Cl | C2H3ClO
reactant | (3S,5R)-3,5-dimethyl-piperazine-1-carboxylic acid tert-butyl ester | 2.34 mmol, 500 mg | C(C)(C)(C)OC(=O)N1C[C@@H](N[C@@H](C1)C)C | C11H22N2O2
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
product | (3S,5R)-4-acetyl-3,5-dimethyl-piperazine-1-carboxylic acid tert-butyl ester | 545 mg | C(C)(C)(C)OC(=O)N1C[C@@H](N([C@@H](C1)C)C(C)=O)C | C13H24N2O3
